US06486313B1
(R)-3-hydroxy-4-(2-indolyl)butyronitrile (R)-4
To a solution of 0.5 M LiCN in DMF (30 mL) was added (R)-3-indol-2-yl-2-hydroxypropanyl p-toluenesulfonate (R)-2 (5.6 g, 16.2 mmol) and sodium cyanide (1.5 g, 30.6 mmol). The reaction mixture was stirred for 1 hour at 100° C., cooled to room temperature, poured into 80 mL ice-water, and extracted with ethyl acetate (3×50 mL). The combined organic solution was washed with saturated sodium bicarbonate (2×50 mL), brine (2×30 mL), dried over anhydrous sodium sulfate, and evaporated to yield a deep red oil. The oil was purified by flash chromatography (hexane:ethyl acetate 2:3) to give 2.4 g (74%) of the title compound as a light yellow solid.

reactant | LiCN | 0.5 M | [Li]C#N
reactant | (R)-3-indol-2-yl-2-hydroxypropanyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CC=1NC2=CC=CC=C2C1)O)C | C18H19NO4S
reactant | sodium cyanide | 30.6 mmol, 1.5 g | [C-]#N.[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (R)-3-hydroxy-4-(2-indolyl)butyronitrile | 2.4 g, 74% | O[C@@H](CC#N)CC=1NC2=CC=CC=C2C1 | C12H12N2O
